US06432949B1
6-chloro-N-[5-(3-fluoro-5-morpholinobenzamido)-2-methylphenyl]pyridine-3-carboxamide
Using an analogous procedure to that described in Example 2 except that the reaction mixture was heated to 100° C. for 4 hours, 6-chloropyridine-3-carbonyl chloride was reacted with N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide to give the title compound in 74% yield; NMR Spectrum: (DMSOd6): 2.2 (s, 3H), 3.18-3.22 (t, 4H), 3.75-3.85 (t, 4H), 6.9-7.0 (m, 1H), 7.1-7.15 (d, 1H), 7.2-7.3 (m, 2H), 7.55-7.6 (m, 1H) 7.65-7.7 (d, 1H), 7.8 (s, 1H), 8.3-8.4 (m, 1H), 8.95 (d, 1H), 10.15 (s, 1H), 10.17 (s, 1H); Mass Spectrum M+H+ 469 and 471.

reactant | 6-chloropyridine-3-carbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C18H20FN3O2
product | 6-chloro-N-[5-(3-fluoro-5-morpholinobenzamido)-2-methylphenyl]pyridine-3-carboxamide | 74% yield | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C24H22ClFN4O3
